US07902219B2
To a solution of 0.144 g of N-methoxy-N-methyl-6-chloroimidazo[1,2-a]pyridine-2-carboxamide in 3 mL of THF cooled to −4° C. is added dropwise a solution of 1.5 mL of a 2M solution of 2-methylphenylmagnesium chloride in ethyl ether. The reaction mixture is stirred for 3 hours at −4° C. 3 mL of 1N hydrochloric acid, 8 mL of water and 40 mL of ethyl acetate are added. After separation of the phases by settling, the organic phase is dried over magnesium sulfate, filtered, evaporated to dryness under reduced pressure, and then purified on a column of silica, eluting with a 90/10 mixture by volume of dichloromethane and ethyl acetate. The fractions containing the product are combined and concentrated to dryness under reduced pressure to give 0.034 g of (6-chloroimidazo[1,2-a]pyridin-2-yl)(2-methylphenyl)methanone in the form of a white solid.

reactant | N-methoxy-N-methyl-6-chloroimidazo[1,2-a]pyridine-2-carboxamide | 0.144 g | CON(C(=O)C=1N=C2N(C=C(C=C2)Cl)C1)C | C10H10ClN3O2
reactant | 2-methylphenylmagnesium chloride | CC1=C(C=CC=C1)[Mg]Cl
reactant | hydrochloric acid | 1N, 3 mL | Cl | ClH
reactant | water | 8 mL | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | (6-chloroimidazo[1,2-a]pyridin-2-yl)(2-methylphenyl)methanone | 0.034 g | ClC=1C=CC=2N(C1)C=C(N2)C(=O)C2=C(C=CC=C2)C | C15H11ClN2O
